US05200409
Preparation of 6-Nitro-1,3-Dithiolo-(4,5-b)-quinoxaline-2-ylidene-propanedinitrile
To a solution of 2,3-dichloro-6-nitro-quinoxaline (0.5 g, 0.002 mol) in dimethylformamide (15 mL) is added, in several portions, di(sodiomercapto)methylenemalononitrile (0.53 g, 0.0029 mol). The resulting solution is stirred overnight at room temperature. Water (50 mL) is slowly added to the reaction mixture, dropwise, with stirring. The resulting solid is isolated by filtration, washed with water and dried, giving 0.48 g (78 percent yield) of a dark brown powder.

reactant | 2,3-dichloro-6-nitro-quinoxaline | 0.002 mol, 0.5 g | ClC1=NC2=CC=C(C=C2N=C1Cl)[N+](=O)[O-] | C8H3Cl2N3O2
reactant | di(sodiomercapto)methylenemalononitrile | 0.0029 mol, 0.53 g | [Na]SC(S[Na])=C(C#N)C#N
reactant | Water | 50 mL | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 6-Nitro-1,3-Dithiolo-(4,5-b)-quinoxaline-2-ylidene-propanedinitrile | 0.48 g, 78 percent yield | [N+](=O)([O-])C=1C=C2N=C3C(=NC2=CC1)SC(S3)=C(C#N)C#N | C12H3N5O2S2
